data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03026_sup_1.json
{"doi": "10.1021_acs.orglett.3c03026_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] oxidative annulation of 4-methoxystyrene with N-Boc-4-hydroxyaniline to form a 2,3-dihydrobenzofuran via radical intermediates", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the para-hydroxyaniline (and/or styrene) to generate phenoxyl/aryl radical and quinone-imine type intermediates that couple with the styrene", "key_intermediates": [{"name": "phenoxyl/aminyl radical from N-Boc-4-hydroxyaniline (species II, oxidized aryloxy radical with N-Boc)", "smiles": null, "role": "reactive"}, {"name": "benzylic C-radical adduct from styrene addition to phenoxyl radical (species III)", "smiles": null, "role": "transient"}, {"name": "ortho-quinone-imine/methide-like electrophile leading to cyclization to dihydrobenzofuran 3a", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes N-Boc-4-hydroxyaniline 2a to a phenoxyl/N-centered radical (II); this radical adds to the terminal carbon of 4-methoxystyrene 1a, generating a stabilized benzylic radical (III); further oxidation and intramolecular O-attack closes the 2,3-dihydrobenzofuran ring of 3a, with H2 evolution at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction completely suppressed (only trace 3); BHT adducts 4a (with aryloxy/aminyl radical, HRMS [M+Na]+ 450.2617) and 4b (with benzylic radical from styrene, HRMS [M+Na]+ 584.3335) detected"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely suppressed (only trace 3); TEMPO adducts 5a (HRMS [M+Na]+ 387.2271) and 5b (HRMS [M+H]+ 499.3166) detected, supporting both aryloxy radical and benzylic radical intermediates"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT"], "evidence_strength": "medium", "notes": "Current screening (Table S6) identified 10 mA as optimal (93% yield, 2 h). Mechanism proposal is supported only by radical trapping with HRMS detection of adducts; no KIE, CV, or DFT data shown on these pages."}
